US07208493B2
3,4-Dihydroxy-N-(2-(1H-indol-2-yl)-phenyl)-benzamide
Prepared from 2-(2-aminophenyl) indole and 3,4-dihydroxybenzoic acid in 54% yield following procedure 1. The product was chromatographed on silica. 100% Purity by LC/MS (230 DAD), Mass-spec (M+H+)=345.83, 1H NMR (MeOH-d4): 6.645 s (1H), 6.80 d, 8 Hz (1H), 7.02 t, 8 Hz (1H), 7.12 td, 8.1 Hz (1H), 7.23 dd, 8.1 Hz (1H), 7.33–7.36 m (2H), 7.39–7.42 m (2H), 7.52 d, 7 Hz (1H), 7.65 dd, 8.1 Hz (1H), 7.94 d, 8 Hz (1H).

reactant | 2-(2-aminophenyl) indole | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | 3,4-dihydroxybenzoic acid | OC=1C=C(C(=O)O)C=CC1O | C7H6O4
product | 3,4-Dihydroxy-N-(2-(1H-indol-2-yl)-phenyl)-benzamide | 54% yield | OC=1C=C(C(=O)NC2=C(C=CC=C2)C=2NC3=CC=CC=C3C2)C=CC1O | C21H16N2O3
